US05869490
2-(4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H- 1,4-dioxino[2,3-e]indol-8-one (1.03 g, 2.75 mmole), 4-(4-fluorobenzoyl)piperidine p-toluenesulfonate (4.68 g, 12.4 mmole) and diisopropylethylamine (2.15 ml, 12.3 mmole) were combined in 70 ml of dry DMSO and heated to 85° C. for 5 hours under a nitrogen atmosphere. The reaction was cooled and taken into 400 ml of 1:1 hexane/ethyl acetate. This was washed with 200 ml of water, with 200 ml of saturated brine, dried over MgSO4, filtered and concentrated to yield an oil. This oil was column chromatographed on silica gel using 0.75% methanol/CH2Cl2 as eluant to give the free base of the title compound as a yellow oil (0.40 g, 40%). This oil was crystallized from ethanol with the addition of a solution of fumaric acid in hot ethanol to give 0.37 g of the (S) enantiomer of the title compound as a light yellow solid fumarate, m.p. 237°-238° C.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H- 1,4-dioxino[2,3-e]indol-8-one | 2.75 mmole, 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=CC2)=O)O1)C | C18H17NO6S
reactant | 4-(4-fluorobenzoyl)piperidine p-toluenesulfonate | 12.4 mmole, 4.68 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | diisopropylethylamine | 12.3 mmole, 2.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hexane ethyl acetate | 400 ml | CCCCCC.C(C)(=O)OCC
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 2-(4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 0.40 g, 40% | FC1=CC=C(C(=O)C2CCN(CC2)CC2COC=3C(=C4CC(NC4=CC3)=O)O2)C=C1 | C23H23FN2O4
